US04020233
To a one neck, one liter round bottom glass flask equipped with a stirrer and condenser was charged 10 g of 4-methoxybenzophenone, 300 cc of isopropanol, and 1 drop of glacial acetic acid. The solution was exposed to radiation through the flask wall for 140 hours from a 275 watt U.V. sunlamp situated 4 inches from the side of the flask. The solvent was stripped off under vacuum and the residue crystallized from ethyl alcohol to give 4,4'-dimethoxybenzopinacol with, after drying, a melting point of 163°-165° C.

reactant | 4-methoxybenzophenone | 10 g | COC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H12O2
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | isopropanol | 300 cc | C(C)(C)O | C3H8O
product | 4,4'-dimethoxybenzopinacol | COC1=CC=C(C=C1)C(O)(C1=CC=C(C=C1)OC)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H26O4
